US06326386B1
[2-(3-Chloro-5-{isopropyl-[2-(1-methyl-1H-tetrazol-5-yl)-ethyl]-carbamoyl}-phenoxy)-ethyl]-pyridin-4-yl-carbamic acid tert-butyl ester
To a solution of 3-chloro-5-hydroxy-N-isopropyl-N-[2-(1-methyl-1H-tetrazol-5-yl)-ethyl]-benzamide (0.070 g) in DMF (2.0 ml) stirred at room temperature under nitrogen was added sodium hydride (60% dispersion in oil, 0.010 g) and after 10 min was added toluene-4-sulfonic acid 2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethyl ester (0.120 g). The reaction was stirred for 88 h and the sovent removed in vacuo. The residue was partitioned between ethyl acetate and water. The organic phase was washed with further water and 1M aqueous sodium hydroxide, water and dried with brine and over sodium sulphate and concentrated under reduced pressure to give the crude product which was purified by flash column chromatography, eluting with ethyl acetate:petroleum ether (4:1 v/v) and 24:1 dichloromethane:methanol (24:1 v/v), to give the title compound as a colourless gum (0.028 g).

reactant | 3-chloro-5-hydroxy-N-isopropyl-N-[2-(1-methyl-1H-tetrazol-5-yl)-ethyl]-benzamide | 0.070 g | ClC=1C=C(C(=O)N(CCC2=NN=NN2C)C(C)C)C=C(C1)O | C14H18ClN5O2
reactant | sodium hydride | 0.010 g | [H-].[Na+]
reactant | toluene-4-sulfonic acid 2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethyl ester | 0.120 g | C(C)(C)(C)OC(=O)N(CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=NC=C1 | C19H24N2O5S
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | [2-(3-Chloro-5-{isopropyl-[2-(1-methyl-1H-tetrazol-5-yl)-ethyl]-carbamoyl}-phenoxy)-ethyl]-pyridin-4-yl-carbamic acid tert-butyl ester | 0.028 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(CCC1=NN=NN1C)C(C)C)=O)Cl)=O | C26H34ClN7O4
